US06911468B2
(2) Sodium (2R)-2-([4-[1-(4-pentylphenylethyl)-5-methyl-1H-pyrrol-2-yl]phenyl]oxy)-3-phenylpropanoate
To a solution of (2R)-2-([4-[1-(4-pentylphenylethyl)-5-methyl-1H-pyrrol-2-yl]phenyl]oxy)-3-phenylpropanoic acid (615 mg, 1.24 mmol) in ethanol (10 ml) was added 1N sodium hydroxide-ethanol (1.21 ml, 1.21 mmol) and the mixture was concentrated. To the residue was added hexane to give the object compound as a solid. 500 mg, (yield 62%)

reactant | (2R)-2-([4-[1-(4-pentylphenylethyl)-5-methyl-1H-pyrrol-2-yl]phenyl]oxy)-3-phenylpropanoic acid | 1.24 mmol, 615 mg | C(CCCC)C1=CC=C(C=C1)CCN1C(=CC=C1C)C1=CC=C(C=C1)O[C@@H](C(=O)O)CC1=CC=CC=C1 | C33H37NO3
reactant | sodium hydroxide ethanol | 1.21 mmol, 1N, 1.21 ml | [OH-].[Na+].C(C)O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Sodium (2R)-2-([4-[1-(4-pentylphenylethyl)-5-methyl-1H-pyrrol-2-yl]phenyl]oxy)-3-phenylpropanoate | yield 62% | C(CCCC)C1=CC=C(C=C1)CCN1C(=CC=C1C)C1=CC=C(C=C1)O[C@@H](C(=O)[O-])CC1=CC=CC=C1.[Na+] | InChI=1S/C33H37NO3.Na/c1-3-4-6-9-26-13-15-27(16-14-26)22-23-34-25(2)12-21-31(34)29-17-19-30(20-18-29)37-32(33(35)36)24-28-10-7-5-8-11-28;/h5,7-8,10-21,32H,3-4,6,9,22-24H2,1-2H3,(H,35,36);/q;+1/p-1/t32-;/m1./s1
